US05041448
A mixture of 13 parts of methyl cis-4-[[[[4-[[(4-fluorophenyl)methyl]amino]-5-pyrimidinyl]amino]thioxomethyl]amino]-3-methyl-1-piperidinecarboxylate, 13 parts of mercury(II) oxide, 0.1 parts of sulfur and 160 parts of methanol, saturated with ammonia was stirred for 0.5 hours at reflux temperature. The reaction mixture was filtered over diatomaceous earth while hot and the filtrate was evaporated. The residue was poured into water and the product was extracted with trichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was solidified in 1,1'-oxybisethane. The product was filtered off and dried, yielding 7 parts (58.5%) of methyl cis-4-[[9-[(4-fluorophenyl)methyl]-9H-purin-8-yl]amino]-3-methyl-1-piperidinecarboxylate; mp. 152.2° C. (compound 19).

reactant | methyl cis-4-[[[[4-[[(4-fluorophenyl)methyl]amino]-5-pyrimidinyl]amino]thioxomethyl]amino]-3-methyl-1-piperidinecarboxylate | FC1=CC=C(C=C1)CNC1=NC=NC=C1NC(=S)N[C@@H]1[C@@H](CN(CC1)C(=O)OC)C | C20H25FN6O2S
reactant | sulfur | [S] | S
reactant | ammonia | N | H3N
catalyst | mercury(II) oxide | [Hg]=O
solvent | methanol | CO | CH4O
product | methyl cis-4-[[9-[(4-fluorophenyl)methyl]-9H-purin-8-yl]amino]-3-methyl-1-piperidinecarboxylate | 58.5% | FC1=CC=C(C=C1)CN1C2=NC=NC=C2N=C1N[C@@H]1[C@@H](CN(CC1)C(=O)OC)C | C20H23FN6O2
